US09388185B2
Step 2. 4-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)picolinic acid
6.0 M Potassium hydroxide in water (0.2 mL, 1 mmol) was added to a solution of 4-[2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl]pyridine-2-carbonitrile (50.0 mg, 0.0951 mmol) in THF (0.5 mL) and then the reaction was stirred at 90° C. for 5 hours. The mixture was then acidified to pH=2 by adding conc. HCl and then the solvent was removed to provide the desired crude product which was used in the next step directly. LCMS calculated for C22H21N4O4(M+H)+: m/z=405.2. Found 405.2.

reactant | Potassium hydroxide | 6.0 M | [OH-].[K+]
reactant | water | 1 mmol, 0.2 mL | O | H2O
reactant | 4-[2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl]pyridine-2-carbonitrile | 0.0951 mmol, 50.0 mg | COC=1C=C(C=C(C1)OC)CCC=1N=C2C(=NC1)N(C(=C2)C2=CC(=NC=C2)C#N)S(=O)(=O)C2=CC=CC=C2 | C28H23N5O4S
reactant | HCl | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)picolinic acid | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C3=CC(=NC=C3)C(=O)O)C=C(C1)OC | C22H20N4O4
